US07915250B2
To a mixture of methyl 4-[(2-fluoro-4-iodophenyl)amino]-2,5-dihydrothiophene-3-carboxylate (1.2 g, 3.16 mmol) in 10 ml of anhydrous toluene was added 2,3,5,6-tetrachlorocyclohexa-2,5-diene-1,4-dione (0.78 g, 3.16 mmol). The mixture was refluxed for 2 h. The mixture was cooled to 50° C. and concentrated in vacuo to dryness and cooled to room temperature. To the residue was added ethanol and the mixture was refluxed for several minutes, cooled to room temperature and light blue crystalline product was filtered off and dried in vacuo to afford methyl 4-[(2-fluoro-4-iodophenyl)amino]thiophene-3-carboxylate (0.74 g, 62%). 1HNMR (d6-DMSO): 8.78 (s, 1H), 8.42 (d, 1H), 7.64 (d, 1H), 7.46 (d, 1H), 7.37 (t, 1H), 7.14 (s, 1H), 3.85 (s, 3H); MS (EI) for C12H9FINO2S: 378 (MH+).

reactant | methyl 4-[(2-fluoro-4-iodophenyl)amino]-2,5-dihydrothiophene-3-carboxylate | 3.16 mmol, 1.2 g | FC1=C(C=CC(=C1)I)NC1=C(CSC1)C(=O)OC | C12H11FINO2S
reactant | 2,3,5,6-tetrachlorocyclohexa-2,5-diene-1,4-dione | 3.16 mmol, 0.78 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[(2-fluoro-4-iodophenyl)amino]thiophene-3-carboxylate | 0.74 g, 62% | FC1=C(C=CC(=C1)I)NC=1C(=CSC1)C(=O)OC | C12H9FINO2S
